US09328106B2
Following the procedure of Intermediate 104, replacing 2,6-difluoro-4-methoxyphenylboronic acid with 3-(3,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxetan-3-ol (see US2012/225062) gave the title compound, after adding the following fluorination step prior to ester hydrolysis: A solution of methyl 2-(2,6-difluoro-4-(3-hydroxyoxetan-3-yl)phenyl)thiazole-4-carboxylate (50 mg) in dichloromethane (5 mL) was cooled to −78° C., then deoxo-fluor (1.5 equiv., 50 wt % solution in toluene) was added. The mixture was allowed to slowly warm to rt over 30 minutes. The reaction was then quenched by the addition of sat. NaHCO3(aq), then the mixture was diluted with EtOAc and washed with brine. The organic extracts were dried (Na2SO4) and concentrated in vacuo. Purification by CombiFlash (0 to 100% EtOAc in heptane) provided methyl 2-(2,6-difluoro-4-(3-fluorooxetan-3-yl)phenyl)thiazole-4-carboxylate.

reactant | methyl 2-(2,6-difluoro-4-(3-hydroxyoxetan-3-yl)phenyl)thiazole-4-carboxylate | 50 mg | FC1=C(C(=CC(=C1)C1(COC1)O)F)C=1SC=C(N1)C(=O)OC | C14H11F2NO4S
reactant | deoxo-fluor | 1.5 equiv. | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl 2-(2,6-difluoro-4-(3-fluorooxetan-3-yl)phenyl)thiazole-4-carboxylate | FC1=C(C(=CC(=C1)C1(COC1)F)F)C=1SC=C(N1)C(=O)OC | C14H10F3NO3S
